### ISSUE TITLE
New tactics

### ISSUE THREAD

**Issue by IlPreteRosso** [alerad/leancert#2]
I created two tactics based on your library.

`vec_simp`
```
-- Before
conv_lhs => rw [show (![ā₀, ā₁, ā₂] : Fin 3 → ℝ) ⟨0, by omega⟩ = ā₀ from rfl]

-- After
example : (![ā₀, ā₁, ā₂] : Fin 3 → ℝ) ⟨0, by omega⟩ = ā₀ := by vec_simp
```

`expand_Icc_sum`
```
-- Before 
-- Huge chunk of helper lemmas for specific cases

-- After
example (f : ℕ → ℝ) : ∑ k ∈ Finset.Icc 1 3, f k = f 1 + f 2 + f 3 := by expand_Icc_sum

example : ∑ k ∈ Finset.Icc 1 4, (fun n : ℕ => (n : ℝ)) k = 10 := by
  expand_Icc_sum
  ring
```

Let me know if you'd like me to make a PR
